US03984467
1-Methyl-1-phenyl-3-(pentanimidoyl)urea
To a stirred solution of 29.4 g. phosgene in 350 ml. dry chloroform at 5°C. was added a solution of 32.1 g. N-methylaniline and 23.7 g. dry pyridine in 80 ml. dry chloroform dropwise during 45 minutes and the resulting solution was allowed to stand at 5°C. for 3 hours. The solution was evaporated to dryness under reduced pressure and the resulting residue was dissolved in ether. The ethereal solution was heated with magnesium sulfate, filtered, the filtrate was evaporated to dryness under reduced pressure and the resulting solid was slurried in n-hexane and filtered to give 31.5 g. N-phenyl- N-methylcarbamyl chloride; m.p. 90°-91°C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
reactant | N-phenyl- N-methylcarbamyl chloride | C1(=CC=CC=C1)N(C(=O)Cl)C | C8H8ClNO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-Methyl-1-phenyl-3-(pentanimidoyl)urea | CN(C(=O)NC(CCCC)=N)C1=CC=CC=C1 | C13H19N3O
